US05241107
2A. 10-[3-(Hydroxy)propoxy]anthracene-9-carbaldehyde
To a 1 L 3-necked RB flask equipped with overhead stirrer, condenser, thermometer and N2 inlet line with bubbler was added 1,3-propanediol (Aldrich, 500 mL) and KOt-Bu (MCB, 14.03 g, 0.125 mol). After stirring for 30 min 10-chloro-9-anthracenecarbaldehyde (Aldrich, 25.0 g, 0.104 mol) was added to the flask and the mixture further stirred at 90° for 2.5 h. The reaction mixture was poured into H2O (5 L), filtered, dissolved in EtOAc, washed with H2O (3×500 mL), dried (Na2SO4), filtered and the solvent removed to give 24.98 g of dark oil. This was divided into two portions and each purified by preparative HPLC using SiO2 columns and EtOAc/CH2Cl2 (1:9) as the eluting solvent. Combination of the appropriate fractions followed by removal of the solvents by rotary evaporation gave 19.8 g (66%) of an orange solid, 10-[(3-hydroxy)propoxy]-9-anthracenecarbaldehyde, mp 72°-73°, (C,H).

reactant | 1,3-propanediol | 500 mL | C(CCO)O | C3H8O2
reactant | KOt-Bu | 0.125 mol, 14.03 g | CC(C)(C)[O-].[K+]
reactant | 10-chloro-9-anthracenecarbaldehyde | 0.104 mol, 25.0 g | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
solvent | H2O | 5 L | O | H2O
product | 10-[3-(Hydroxy)propoxy]anthracene-9-carbaldehyde | 24.98 g | OCCCOC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C18H16O3
